US07691854B2
3-(4-Morpholinyl)-3-oxopropanenitrile
500 mg (5.88 mmol) Cyanoacetic acid are dissolved in 30 ml dimethylformamide, 563 mg (6.47 mmol) morpholine, 794 mg (5.88 mmol) 1-hydroxy-1H-benzotriazole hydrate and 718 mg (5.88 mmol) 4-dimethylaminopyridine are added. The reaction mixture is stirred at 0° C., then 1.12 g (5.88 mmol) 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride are added. The reaction mixture is stirred at room temperature for 18 hours, then water and ethyl acetate are added. The organic phase is dried over sodium sulfate and evaporated to dryness in vacuo. The residue is purified by preparative HPLC.

reactant | Cyanoacetic acid | 5.88 mmol, 500 mg | C(#N)CC(=O)O | C3H3NO2
reactant | morpholine | 6.47 mmol, 563 mg | N1CCOCC1 | C4H9NO
reactant | 1-hydroxy-1H-benzotriazole hydrate | 5.88 mmol, 794 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride | 5.88 mmol, 1.12 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 5.88 mmol, 718 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(4-Morpholinyl)-3-oxopropanenitrile | N1(CCOCC1)C(CC#N)=O | C7H10N2O2
